US04056567
Trans-aconitic acid, 10.7 g (0.06 mole), is dissolved in 300 ml of water. An excess of strontium oxide, 12.5 g (0.121 mole) mole is added. This brings the pH to 12.4 and produces a mixture of the strontium salt of trans-aconitic acid and free strontium hydroxide. The resulting mixture is then stirred and heated for 3 hours in a Parr pressure reactor at a temperature of 200° C. The reaction mixture is then cooled and mixed with 121 g of 10% sulfuric acid solution. After stirring the mixture for about 10 minutes, it is filtered to remove precipitated SrSO4. The filtrate is then evaporated in vacuo to give a residue which is purified further by digesting with 100 ml acetone and refiltering to remove insolubles. The acetone filtrade is then evaporated to give an 8.8 g residue containing 54.3% (37.6% yield) of citric acid, 9.6% trans-aconitic acid, 4% succinic acid and the balance, mainly water.

reactant | trans-aconitic acid | C(/C(=C\C(=O)O)/C(=O)O)C(=O)O | C6H6O6
reactant | succinic acid | C(CCC(=O)O)(=O)O | C4H6O4
product | citric acid | 37.6% yield | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
